US08604061B2
A solution of 5-(3,4-dichloro-phenyl)-5-methyl-imidazolidine-2,4-dione (3.0 g; CAS 52715-57-8) in 3N NaOH (30 ml) was refluxed overnight. The reaction mixture was cooled to 0°, then brought to pH 1 by dropwise addition of concentrated HCl. The resulting white slurry was filtered. The solid was washed extensively with H2O, dried in the vacuum, resuspended in EtOH (25 ml), collected by filtration, washed with EtOH and diethylether and dried in the vacuum to give (RS)-2-amino-2-(3,4-dichloro-phenyl)-propionic acid hydrochloride (1.35 g, 27%) as off white solid.

reactant | 5-(3,4-dichloro-phenyl)-5-methyl-imidazolidine-2,4-dione | 3.0 g | ClC=1C=C(C=CC1Cl)C1(C(NC(N1)=O)=O)C | C10H8Cl2N2O2
reactant | HCl | Cl | ClH
reactant | NaOH | 3N, 30 ml | [OH-].[Na+]
product | (RS)-2-amino-2-(3,4-dichloro-phenyl)-propionic acid hydrochloride | 1.35 g, 27% | Cl.NC(C(=O)O)(C)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C9H9Cl2NO2.ClH/c1-9(12,8(13)14)5-2-3-6(10)7(11)4-5;/h2-4H,12H2,1H3,(H,13,14);1H
